US04847263
1.2. 8-Bromo-6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]-pyridine
17 g (82 mmol) of 2-amino-3-bromo-5-chloropyridine dissolved in 150 ml of ethanol are reacted with 29 g of 2-bromo-1-(4-chlorophenyl)-1-ethanone and 14 g of sodium hydrogen carbonate. The mixture is brought to the refluxing temperature for 6 h and cooled. The precipitate is filtered off and rinsed with CH2Cl2, and the filtrate is concentrated under reduced pressure. After recrystallization of the evaporation residue in ethyl acetate, the compound melts at 178° C.

reactant | 2-amino-3-bromo-5-chloropyridine | 82 mmol, 17 g | NC1=NC=C(C=C1Br)Cl | C5H4BrClN2
reactant | 2-bromo-1-(4-chlorophenyl)-1-ethanone | 29 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | sodium hydrogen carbonate | 14 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 8-Bromo-6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]-pyridine | BrC=1C=2N(C=C(C1)Cl)C=C(N2)C2=CC=C(C=C2)Cl | C13H7BrCl2N2
